US09029370B2
To a stirred solution of tert-butyl 3-(4-aminophenyl)pyrrolidine-1-carboxylate (2.00 g, CAS-908334-28-1) in DMF (15 ml) was added NCS (1.07 g) and the mixture was stirred at 70° C. for 1 hour. The reaction mixture was then cooled to room temperature and poured into EtOAc and extracted sequentially with water and with saturated brine. The organic layer was dried over Na2SO4 and then concentrated in vacuo. The residue was purified by column chromatography (SiO2, gradient: 0% to 55% EtOAc in hexanes) to afford tert-butyl (RS)-3-(4-amino-3-chlorophenyl)pyrrolidine-1-carboxylate (1.16 g, 51%) as a yellow oil which was used in the next step without further purification. MS (ISP): 299.0 ([{37Cl}M+H]+), 297.2 ([{35Cl}M+H]+), 243.0 ([{37Cl}M+H—C4H8]+), 241.1 ([{35Cl}M+H—C4H8]+).

reactant | tert-butyl 3-(4-aminophenyl)pyrrolidine-1-carboxylate | 2.00 g | NC1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
reactant | NCS | 1.07 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | tert-butyl (RS)-3-(4-amino-3-chlorophenyl)pyrrolidine-1-carboxylate | 1.16 g, 51% | NC1=C(C=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C)Cl | C15H21ClN2O2
